US07071191B2
4-[4-(1-tert-Butoxycarbonyl-piperidin-4-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
A suspension of 4-(4-Hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (3.11 g), 4-Hydroxy-piperidine-1-carboxylic acid tert-butyl ester (3.51 g), and polymer supported triphenylphosphine (6.25 g; loading: 3 mmol/g) in DCM (100 mL) was treated with di-tert-butylazodicarboxylate (3.78 g). After 24 h, the resulting mixture was filtered, and the filtrate was evaporated. Chromatography of the residue (15-30% ethyl acetate/hexanes) gave the title compound as a white solid (3.20 g).

reactant | 4-(4-Hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C15H22N2O3
reactant | 4-Hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 3.51 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 6.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 3.78 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(1-tert-Butoxycarbonyl-piperidin-4-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 3.20 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C25H39N3O5
